US07632832B2
4-[4-(Hydroxymethyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide
(3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (338 mg, 1.014 mmol) (Y.-J. Shi et al., Tetrahedron, 1999, 55, 909-918) and triethylamine (0.141 mL, 1.014 mmol) were added to a solution of p-nitrophenylchloroformate (204 mg, 1.014 mmol) in tetrahydrofuran (15 mL) at 0° C. After 1 h, 4-(hydroxymethyl)-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one (200 mg, 1.014 mmol) was added and the reaction stirred at 0 oC for 10 min and was then heated to 50 oC. After 4 h, the reaction was partitioned between ethyl acetate and saturated sodium bicarbonate and the organics were washed with water, brine, and dried over magnesium sulfate. Purification by preparative reverse phase chromatography gave the title compound (18 mg). MS 557.21 (M+1).

reactant | (3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 1.014 mmol, 338 mg | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | triethylamine | 1.014 mmol, 0.141 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(hydroxymethyl)-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one | 1.014 mmol, 200 mg | OCC=1NC(N(C1)C1CCNCC1)=O | C9H15N3O2
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-[4-(Hydroxymethyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide | 18 mg | OCC=1NC(N(C1)C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O)=O | C27H27F3N6O4
